US06479487B1
1-(3,4-Methylenedioxy)benzyl-4-piperidone oxime is prepared from 1-(3,4-methylenedioxy)benzyl-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3,4-methylenedioxy)benzyl-4-piperidone | C1OC=2C=C(CN3CCC(CC3)=O)C=CC2O1 | C13H15NO3
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3,4-Methylenedioxy)benzyl-4-piperidone oxime | C1OC=2C=C(CN3CCC(CC3)=NO)C=CC2O1 | C13H16N2O3
